US04730006
δ-Fluoro-ε-carboxylysyl-L-alanine (3)
The Nα,Nε -di-t-butoxycarbonyl-δ-fluoro-ε-carboxylysyl-L-alanine t-butyl ester prepared above (511 mg) is dissolved in ether saturated with HCl gas, and the mixture is stirred at room temperature for 4 days. The precipitate is collected and dissolved in 1N HCl. Evaporation gives a white foam which is dried carefully and is dissolved in ethanol. Upon addition of excess propylene oxide, the title compound crystallizes with 0.75 mmoles of HCl and 0.75 mmoles of water.

reactant | Nα,Nε -di-t-butoxycarbonyl-δ-fluoro-ε-carboxylysyl-L-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CCC(C(NC(=O)OC(C)(C)C)C(=O)O)F)=O)C)=O | C24H42FN3O9
reactant | water | 0.75 mmoles | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | HCl | Cl | ClH
solvent | HCl | 0.75 mmoles | Cl | ClH
product | δ-Fluoro-ε-carboxylysyl-L-alanine | FC(CC[C@H](N)C(=O)N[C@@H](C)C(=O)O)C(N)C(=O)O | C10H18FN3O5
